US04372953
Aluminum chloride (26.7 g) is added to nitrobenzene (20 ml) and 4-chlorobutyric acid chloride (15.5 g) is added dropwise to the mixture with ice-cooling. Naphthalene (12.8 g) is slowly added to the mixture with ice-cooling and stirring is continued at the same temperature for 30 minutes. After stirring at room temperature for additional 2 hours, the reaction mixture is poured into ice-hydrochloric acid and extracted with chloroform. The chloroform extract is washed with water, saturated aqueous sodium bicarbonate, water and then saturated aqueous sodium chloride and dried over anhydrous sodium sulfate. The dried solution is distilled. A fraction having b.p. 187°-191° C./1.6 mmHg is separated and purified by silica gel column chromatography. The product thus obtained is crystallized from hexane and then further recrystallized from hexane-petroleum ether to obtain 2-(4-chlorobutyryl)naphthalene (4.2 g) as colorless flakes, m.p. 43°-44° C.

reactant | Aluminum chloride | 26.7 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 4-chlorobutyric acid chloride | 15.5 g | ClCCCC(=O)Cl | C4H6Cl2O
reactant | Naphthalene | 12.8 g | C1=CC=CC2=CC=CC=C12 | C10H8
solvent | nitrobenzene | 20 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 2-(4-chlorobutyryl)naphthalene | 4.2 g | ClCCCC(=O)C1=CC2=CC=CC=C2C=C1 | C14H13ClO
